US06268499B1
A solution of 11.8 g (35.0 mmol) of (3R,4R,5S)-5-ethoxy-3-hydroxy-4-(4-hydroxy-phenyl)-piperidine-1-carboxylic acid tert-butylester in 40 ml of dimethylformamide was treated in succession with 10.3 g (45.0 mmol) of 3-bromo-propoxymethyl-benzene and 8.29 g (60.0 mmol) of potassium carbonate. This mixture was stirred at 120° C. for 26 hours. Subsequently, it was filtered, concentrated to a few milliliters, poured into 300 ml of an ice/water mixture and extracted three times with 100 ml of dichloromethane each time. The combined organic phases were washed once with a small amount of water, dried over magnesium sulphate, evaporated under reduced pressure and dried in a high vacuum. The resulting crude product was separated on silica gel using a mixture of dichloromethane and methanol as the eluent and yielded (3R,4R,5S)-4-[4-(3-benzyloxy-propoxy)-phenyl]-5-ethoxy-3-hydroxy-piperidine-1-carboxylic acid tert-butylester as colorless oil; MS: 486 (M+H+); 508 (M+Na+).

reactant | (3R,4R,5S)-5-ethoxy-3-hydroxy-4-(4-hydroxy-phenyl)-piperidine-1-carboxylic acid tert-butylester | 35.0 mmol, 11.8 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)OCC)C1=CC=C(C=C1)O)O | C18H27NO5
reactant | 3-bromo-propoxymethyl-benzene | 45.0 mmol, 10.3 g | BrC=1C=C(C=CC1)COCCC | C10H13BrO
reactant | potassium carbonate | 60.0 mmol, 8.29 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | (3R,4R,5S)-4-[4-(3-benzyloxy-propoxy)-phenyl]-5-ethoxy-3-hydroxy-piperidine-1-carboxylic acid tert-butylester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)OCC)C1=CC=C(C=C1)OCCCOCC1=CC=CC=C1)O | C28H39NO6
